US08124610B2
4-(Biphenyl-2-ylamino)-2-fluoro-N-thiazol-2-yl-benzenesulfonamide
Into a vial was added 4-bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide (100 mg, 0.3 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (2.0 μl mg, 0.036 mmol), tris(dibenzylideneacetone)dipalladium(0) (11 mg, 0.012 mmol), [1,1′-Biphenyl]-2-amine (50.2 mg, 0.296 mmol), sodium tert-butoxide (86 mg, 0.89 mmol) and anhydrous tert-butyl alcohol (4.1 mL, 43 mmol). The reaction mixture was sparged with argon for ˜5 min. The septum was replaced with a microwave vial cap, and the reaction mixture was heated for 5 min at 120° C. The reaction mixture was then filtered through a syringe filter and the filtrate concentrated in vacuo. The vial and syringe were washed with 3 mL of DMSO and this was combined with the concentrated filtrate. The resulting solution was filtered through a plug of cotton then purified by reverse phase HPLC (Prep: Phenomenex 250×30.0 mm 15 micron C18 column. 40 mL/min. Gradient 15% B to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8 TFA). The clean fractions were concentrated in vacuo to afford the product as an off-white solid. LC/MS analysis: Retention time: 1.52 minutes, M+H=426.

reactant | 4-bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 0.3 mmol, 100 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H6BrFN2O2S2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.036 mmol, 2.0 μl | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | [1,1′-Biphenyl]-2-amine | 0.296 mmol, 50.2 mg | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
reactant | sodium tert-butoxide | 0.89 mmol, 86 mg | CC(C)([O-])C.[Na+]
reactant | tert-butyl alcohol | 43 mmol, 4.1 mL | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.012 mmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(Biphenyl-2-ylamino)-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | C1(=C(C=CC=C1)NC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F)C1=CC=CC=C1 | C21H16FN3O2S2
